US07700655B2
(3) N-[3,5-Bis(trifluoromethyl)phenyl]-2-methoxy-4-phenylbenzamide
Using 2-methoxy-4-phenylbenzoic acid and 3,5-bis(trifluoromethyl)aniline as the raw materials, the same operation as the Example 16 gave the title compound.

reactant | 2-methoxy-4-phenylbenzoic acid | COC1=C(C(=O)O)C=CC(=C1)C1=CC=CC=C1 | C14H12O3
reactant | 3,5-bis(trifluoromethyl)aniline | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
product | N-[3,5-Bis(trifluoromethyl)phenyl]-2-methoxy-4-phenylbenzamide | Yield: 97.5% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=C(C=C1)C1=CC=CC=C1)OC)=O)(F)F | C22H15F6NO2
